US07115750B1
4-[N-(4-Methoxybenzoyl)-N-methylamino]benzoic acid
Aqueous solution (50 ml) of sodium carbonate (23 g) was added to THF solution (50 ml) of 4-(methylamino)benzoic acid (5.0 g), and p-anisoyl chloride (5.6 g) was added dropwise to the solution under ice-cooling, which was stirred for 15 minutes, and then stirred at room temperature for 30 minutes. Concentrated hydrochloric acid was added to the reaction mixture under ice-cooling to make the water layer acidic, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was purified using silica gel column chromatography (development solvent; hexane˜hexane:ethyl acetate=1:2), and recrystallized (ethyl acetate-hexane) to give the titled compound (4.8 g).

reactant | sodium carbonate | 50 ml, 23 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(methylamino)benzoic acid | 5.0 g | CNC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | p-anisoyl chloride | 5.6 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-[N-(4-Methoxybenzoyl)-N-methylamino]benzoic acid | 4.8 g | COC1=CC=C(C(=O)N(C)C2=CC=C(C(=O)O)C=C2)C=C1 | C16H15NO4
